US07855202B2
2-(1,3-Oxazol-2-yl)-3,4′-bipyridine-5,6-diamine
A suspension of 5-nitro-2-(1,3-oxazol-2-yl)-3,4′-bipyridin-6-amine (0.089 g, 0.31 mmol) and palladium on carbon (10%, 20 mg) in ethanol (15 mL) was placed under a hydrogen atmosphere (balloon) and stirred at room temperature. After 3 hours, the mixture was filtered through Celite® and the filtrate was evaporated. Trituration with diethyl ether gave the title compound (0.077 g, 97%) as a pale orange solid.

reactant | 5-nitro-2-(1,3-oxazol-2-yl)-3,4′-bipyridin-6-amine | 0.31 mmol, 0.089 g | [N+](=O)([O-])C=1C=C(C(=NC1N)C=1OC=CN1)C1=CC=NC=C1 | C13H9N5O3
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-(1,3-Oxazol-2-yl)-3,4′-bipyridine-5,6-diamine | 0.077 g, 97% | O1C(=NC=C1)C1=NC(=C(C=C1C1=CC=NC=C1)N)N | C13H11N5O
